US07612211B2
A mixture of 2-(3′,4′-diamino-biphenyl-2-sulfonyl)-ethanol (0.140 g, 0.479 mmol) and 2-bromoacetimidic acid ethyl ester hydrochloride salt (0.116 g, 0.575 mmol) in anhydrous ethanol (100%, 6 mL) was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure and extracted with ethyl acetate and brine. The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo to provide 2-bromomethyl-5-(2-methanesulfonyl-phenyl)-1H-benzoimidazole as yellow oil (0.178 g, 94%).

reactant | 2-(3′,4′-diamino-biphenyl-2-sulfonyl)-ethanol | 0.479 mmol, 0.140 g | NC=1C=C(C=CC1N)C=1C(=CC=CC1)S(=O)(=O)CCO | C14H16N2O3S
reactant | 2-bromoacetimidic acid ethyl ester hydrochloride salt | 0.575 mmol, 0.116 g | Cl.C(C)OC(CBr)=N
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 2-bromomethyl-5-(2-methanesulfonyl-phenyl)-1H-benzoimidazole | 0.178 g, 94% | BrCC1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)S(=O)(=O)C | C15H13BrN2O2S
